US05026868
a) Ethyl 2,3-dihydro-2-vinyl-1H-indene-2-carboxylate
Tetrabutylammonium bromide (0.31 g) and 48% NaOH solution (9 ml) were added to a flask. α,α'-dibromo-o-xylene (5.0 g) in toluene (15 ml) was then added to the flask. The mixture was stirred and ethyl 3-butenoate (2.16 g) in toluene (15 ml) was added dropwise at room temperature. After the addition the temperature was slowly raised to +60° C. The mixture was stirred at this temperature for 3.5 hours and then cooled. The toluene layer was separated, washed with water and evaporated at reduced pressure to give the desired product.

reactant | NaOH | 9 ml | [OH-].[Na+]
reactant | α,α'-dibromo-o-xylene | 5.0 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | ethyl 3-butenoate | 2.16 g | C(CC=C)(=O)OCC | C6H10O2
catalyst | Tetrabutylammonium bromide | 0.31 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2,3-dihydro-2-vinyl-1H-indene-2-carboxylate | C(=C)C1(CC2=CC=CC=C2C1)C(=O)OCC | C14H16O2
